US06281363B1
A solution of 0.83 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-glycinyl-4-methylvalerohydrazide in 50 ml of dichloromethane was cooled to 0° C. under nitrogen and treated with 0.76 ml of N-ethylmorpholine and 1.34 ml of a 1.93M solution of phosgene in toluene. The mixture was left to warm to room temperature and was stirred for 3 hours. The mixture was diluted with ethyl acetate and washed with 2M aqueous hydrogen chloride and saturated aqueous sodium chloride. The organic phase was dried over anhydrous magnesium sulphate and evaporated. Trituration of the residue with diethyl ether gave 0.783 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-N-(2,5-dioxo 1-imidazolidinyl)valeramide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-glycinyl-4-methylvalerohydrazide | 0.83 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNC(CN)=O)CC(C)C | C23H35N3O4
reactant | N-ethylmorpholine | 0.76 ml | C(C)N1CCOCC1 | C6H13NO
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-N-(2,5-dioxo 1-imidazolidinyl)valeramide | 0.783 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN1C(NCC1=O)=O)CC(C)C | C24H33N3O5
